US07365095B2
Treatment of (2R)-2-(2′,4′-dichloro-6-fluoro-3-(prop-1-enyl)biphenyl-2-yloxy)but-3-enyl 4-methylbenzenesulfonate (0.6 g, 1.15 mmol) with benzylidene-bis(tricyclohexylphosphine)dichlororuthenium (0.30 g, 0.36 mmol) in 1,2-dichloroethane (30 mL) according to the procedure described for Example 69, Step 7 provided 0.35 g (63%) of ((2R)-8-(2,4-dichlorophenyl)-7-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate as a brown oil.

reactant | (2R)-2-(2′,4′-dichloro-6-fluoro-3-(prop-1-enyl)biphenyl-2-yloxy)but-3-enyl 4-methylbenzenesulfonate | 1.15 mmol, 0.6 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](C=C)OC1=C(C(=CC=C1C=CC)F)C1=C(C=C(C=C1)Cl)Cl | C26H23Cl2FO4S
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
catalyst | benzylidene-bis(tricyclohexylphosphine)dichlororuthenium | 0.36 mmol, 0.30 g | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | ((2R)-8-(2,4-dichlorophenyl)-7-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | 0.35 g, 63% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C(=CC=C2C=C1)F)C1=C(C=C(C=C1)Cl)Cl | C23H17Cl2FO4S
